US04579585
3-Bromo-4(1-fluoromethyl-ethyl)-nitrobenzene
To 80 ml of concentrated sulfuric acid, 80 ml of water and 18.3 g (0.1 Mol) of 4(fluoromethyl-ethyl)-nitrobenzene are added portionwise with stirring 18.3 g (0.11 Mol) potassium bromate at such a rate that the temperature does not exceed 35°.

reactant | sulfuric acid | 80 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4(fluoromethyl-ethyl)-nitrobenzene | 0.1 Mol, 18.3 g | FCC(C)C1=CC=C(C=C1)[N+](=O)[O-] | C9H10FNO2
reactant | potassium bromate | 0.11 Mol, 18.3 g | Br(=O)(=O)[O-].[K+]
solvent | water | 80 ml | O | H2O
product | 3-Bromo-4(1-fluoromethyl-ethyl)-nitrobenzene | BrC=1C=C(C=CC1C(C)CF)[N+](=O)[O-] | C9H9BrFNO2
